US04250094
In the manner given in Example 1, 1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine was reacted with dimethylamine to give 1-[(dimethylamino)-methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 182°-183.5° C.

reactant | 1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=CC=C1 | C17H13ClN4
reactant | dimethylamine | CNC | C2H7N
product | 1-[(dimethylamino)-methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=CC=C1 | C19H19N5
